US08013006B2
1-(1-Ethyl-6-methoxy-1-H-indole-3-yl)ethanone oxime (100 mg, 0.43 mmol) was dissolved in THF (900 μL) at 0° C. n-BuLi (450 μL, 2.5 M in hexanes, 1.12 mol) was added dropwise, resulting in instant precipitation of solids. DMF (70 μL, 0.9 mol) in 260 μL of was then added dropwise. This was stirred at 0° C. for 1 h, then at room temperature for 1 h. The reaction mixture was pipetted into a mixture containing 1 mL of H2O, 1 mL of THF, and 100 μL of concentrated H2 SO4. This mixture was heated at 75° C. for 1 h and then was partitioned between H2O and EtOAc. The organic phase was dried and concentrated. Purification by column chromatography (CH2Cl2) yielded 1-ethyl-3-isoxazol-3-yl-6-methoxy-1-H-indole product as a white solid (13 mg, 12%).

reactant | 1-(1-Ethyl-6-methoxy-1-H-indole-3-yl)ethanone oxime | 0.43 mmol, 100 mg | C(C)N1C=C(C2=CC=C(C=C12)OC)C(C)=NO | C13H16N2O2
reactant | n-BuLi | 1.12 mol, 2.5 M, 450 μL | [Li]CCCC
reactant | DMF | 0.9 mol, 70 μL | CN(C)C=O | C3H7NO
reactant | H2O | 1 mL | O | H2O
solvent | THF | 900 μL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 1-ethyl-3-isoxazol-3-yl-6-methoxy-1-H-indole | 13 mg, 12% | C(C)N1C=C(C2=CC=C(C=C12)OC)C1=NOC=C1 | C14H14N2O2
